US06844375B2
72 g (0.45 mol) 1,5-dihydroxynaphthalene are dissolved in 400 ml DMAc while heating in a three-necked flask fitted with a dropping funnel, internal thermometer, column and distillation cap. Then, at an internal temperature of 110-130° C., 178 g (1.1 mol) of a 30% solution of sodium methanolate in methanol are added dropwise and the resulting methanol is distilled off continuously via the column. When all the methanol has been transferred, 136 g (1.1 mol) chloracetaldehyde dimethylacetal is added in one portion, and the reaction is allowed to continue for approximately 3 hours at 130° C. Following this, the reaction mixture is cooled to 80° C., filtered while still warm, and the filtrate is poured onto 1000 g iced water to which 15 g NaOH have been added. The precipitate is filtered off, washed thoroughly with water and then dried under vacuum at 60° C. A yield of 80 g (53%) 1,5-bis-(2,2′-dimethoxyethoxy)naphthalene is obtained. Melting point: 117° C.; IR (KBr): 1273 cm−1 (ether); MS: m/e=336 (M+), 304, 273, 241, 215, 197, 185, 171, 160, 115, 89, 75, 59, 43.

reactant | 1,5-dihydroxynaphthalene | 0.45 mol, 72 g | OC1=CC=CC2=C(C=CC=C12)O | C10H8O2
reactant | chloracetaldehyde dimethylacetal | 1.1 mol, 136 g | COC(CCl)OC | C4H9ClO2
solvent | DMAc | 400 ml | CC(=O)N(C)C | C4H9NO
product | 1,5-bis-(2,2′-dimethoxyethoxy)naphthalene | yield of 80 g, 53% | COC(COC1=CC=CC2=C(C=CC=C12)OCC(OC)OC)OC | C18H24O6
